US08669234B2
The mixture of 2,7-dibromo-9,10-dihydro-phenanthrene (2.4 g, 7.1 mmol), NBS (1.4 g, 7.8 mmol), and benzoyl peroxide (0.2 g) in carbon tetrachloride (300 ml) was refluxed for 2 hours. Potassium acetate (3.6 g) and acetic acid (3.2 ml) were added, and the refluxing was continued for additional 2 hours. The mixture was cooled and diluted with EtOAc. The organic phase was washed with water, saturated sodium bicarbonate, and brine, and was dried with sodium sulfate. Concentration gave 2,7-dibromo-phenanthrene (2.3 g).

reactant | 2,7-dibromo-9,10-dihydro-phenanthrene | 7.1 mmol, 2.4 g | BrC1=CC=2CCC3=CC(=CC=C3C2C=C1)Br | C14H10Br2
reactant | NBS | 7.8 mmol, 1.4 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 0.2 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | Potassium acetate | 3.6 g | C(C)(=O)[O-].[K+]
solvent | carbon tetrachloride | 300 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | acetic acid | 3.2 ml | C(C)(=O)O | C2H4O2
product | 2,7-dibromo-phenanthrene | 2.3 g | BrC1=CC=2C=CC3=CC(=CC=C3C2C=C1)Br | C14H8Br2
